US07560558B2
(4,5-Dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanol (1.4 g) was dissolved in chloroform (30 ml) to prepare a solution. Manganese dioxide (5.7 g) was added to the solution, and the mixture was stirred at room temperature overnight. Further, manganese dioxide (1.8 g) was then added thereto, and the mixture was stirred overnight. The reaction solution was filtered through Celite. The solvent was removed from the filtrate by distillation under the reduced pressure to give (4,5-dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanone (815 mg, yield 58%).

reactant | (4,5-Dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanol | 1.4 g | CC=1C=C(OC1C)C(O)C1=NC(=CC=C1)C | C13H15NO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 5.7 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 1.8 g | [O-2].[O-2].[Mn+4]
product | (4,5-dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanone | 815 mg, yield 58% | CC=1C=C(OC1C)C(=O)C1=NC(=CC=C1)C | C13H13NO2
